US06013659
To a solution of 20.8 g of o-anisidine in 140 ml of pyridine was added dropwise a solution of 35.2 g of p-trifluoromethyl benzoyl chloride in 30 ml of tetrahydrofuran at 50° to 10° C. After stirring at room temperature for 1.7 hours, the reaction mixture was poured into 1.6 liters of water. The precipitate was collected by filtration, washed with water, and dried to give 48.9 g of 4- trifluoromethyl -2'-methoxybenzanilide.

reactant | o-anisidine | 20.8 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | p-trifluoromethyl benzoyl chloride | 35.2 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | water | 1.6 liters | O | H2O
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4- trifluoromethyl -2'-methoxybenzanilide | 48.9 g | FC(C1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1)(F)F | C15H12F3NO2
